US07622469B2
4-Octylamino-3,6-dihydro-6,6-dimethyl-2-(4′-methylbenzylamino)-1,3,5-triazine
40 ml of methanol, 80 ml of acetone and 16 ml (16.2 mmol) of piperidine were added to 3.0 g (7.7 mmol) of N1-(4-methylbenzyl)-N5-octyl-biguanide dihydrochloride, and the mixture was refluxed for 23 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform, methanol and acetic acid (9:0.5:0.5)). 50 ml of ethanol and 50 ml of water were added to the resulting colorless resinous solid, and the pH of the mixture was adjusted to 11 to 12 with 5N sodium hydroxide. The mixture was refluxed for 1 hour, and the solvent was distilled off under reduced pressure. The residue was washed with water, and dried well under reduced pressure to obtain 1.3 g of a colorless solid.

reactant | methanol | 40 ml | CO | CH4O
reactant | piperidine | 16.2 mmol, 16 ml | N1CCCCC1 | C5H11N
reactant | N1-(4-methylbenzyl)-N5-octyl-biguanide dihydrochloride | 7.7 mmol, 3.0 g | Cl.Cl.CC1=CC=C(CNC(=N)NC(=N)NCCCCCCCC)C=C1
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 4-Octylamino-3,6-dihydro-6,6-dimethyl-2-(4′-methylbenzylamino)-1,3,5-triazine | 1.3 g | C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCC1=CC=C(C=C1)C | C21H35N5
